US07368514B2
3-bromophenol (0.582 mol), potassium hydroxide (0.582 mol), methyl sulfoxide (3.2 L) and xylene (0.08 L) were put in a 2-bulb flask equipped with a Dean-Stark azeotropic distillation unit, which has been purged with nitrogen. The reactor was heated to 100° C. and reaction was performed for 48 hours to remove water. The reactor was cooled to 30° C. and 1,2-dibromotetrafluoroethane (0.640 mol) was slowly dropped for 4 hours maintaining the reactor temperature below 30° C. The reaction solution was mixed at 22° C. for 12 hours, and then reaction was performed at 35° C. for 10 hours. After the reaction was completed, the reaction solution was extracted with methylene chloride diluted in water. The obtained product was washed with water for three times and dehydrated with magnesium sulfate. Methylene chloride was removed from the filtrate using a vacuum evaporator. From vacuum distillation, 3-(2-bromotetrafluoroethoxy)bromobenzene was obtained as clear liquid (boiling point: 107 to 110° C.). The yield was 72%.

reactant | 3-bromophenol | 0.582 mol | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | potassium hydroxide | 0.582 mol | [OH-].[K+]
reactant | methyl sulfoxide | 3.2 L | CS(=O)C | C2H6OS
reactant | 1,2-dibromotetrafluoroethane | 0.640 mol | BrC(C(Br)(F)F)(F)F | C2Br2F4
solvent | xylene | 0.08 L | C=1(C(=CC=CC1)C)C | C8H10
product | 3-(2-bromotetrafluoroethoxy)bromobenzene | yield was 72% | BrC(C(OC=1C=C(C=CC1)Br)(F)F)(F)F | C8H4Br2F4O
